US06242443B1
6-Chloro-3-isopropylamino-7-methyl-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 2-amino-4-chloro-5-methylbenzenesulfonamide and isopropyl isothiocyanate, and following a procedure analogous to the one described in Example 4a, N-(2-amino-4-chloro-5-methylbenzenesulfonyl)-N′-isopropylthiourea was prepared; m.p. 120-122° C. Subsequent ring closure with phosgene by a procedure analogous to the one described in Example 4b gave the title compound; 1H-NMR (d6-DMSO), δ (ppm): 10.3 (br, 1H, NH), 7.68 (1H, arom.), 7.29 (1H, arom), 7.2 (br, 1H, NH), 4.0-3.8 (m, 1H, CH), 2.37 (s, 3H, CH3), 1.20 (d, 6H, CH3).

reactant | 2-amino-4-chloro-5-methylbenzenesulfonamide | NC1=C(C=C(C(=C1)Cl)C)S(=O)(=O)N | C7H9ClN2O2S
reactant | isopropyl isothiocyanate | C(C)(C)N=C=S | C4H7NS
reactant | N-(2-amino-4-chloro-5-methylbenzenesulfonyl)-N′-isopropylthiourea | NC1=C(C=C(C(=C1)Cl)C)S(=O)(=O)NC(=S)NC(C)C | C11H16ClN3O2S2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 6-Chloro-3-isopropylamino-7-methyl-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC=1C(=CC2=C(NC(=NS2(=O)=O)NC(C)C)C1)C | C11H14ClN3O2S
